US05801183
6,7-Dichloro-1,2-dihydroquinoxaline-2-one-4-oxide (124)
A suspension of the N-(benzoylacetyl)-4,5-dichloro-2-nitroaniline (0.351 g, 1 mmol) in 20% NaOH (5 mL) was refluxed under stirring for 1 h. The mixture was cooled to room temperature and acidified with 2N HCl to pH 2 to form a precipitate. The precipitated product was filtered, washed with 2N HCl (3×20 mL), H2O (5×20 mL), ethanol (20 mL), and ether (20 mL), and then air dried to give 0.207 g (90%) of the title compound as a light brown powder: mp 278°-280° C. (H2O from DMSO); IR (KBr) 3450, 3104, 2934, 1693, 1593, 1517, 1412, 1270, and 890 cm-1 ; 1H NMR (DMSO-d6) δ7.50 (s, 1H), 7.95 (s, 1H), 8.23 (s, 1H), 12.45 (br.s, 1H, N--H); 13C NMR (DMSO-d6) δ118.09, 121.32, 125.79, 129.75, 130.31, 133.25, 135.50, 157.30; HPLC: 98.1%. HRMS Calcd for C8H4N2O2Cl2 : 229.9650. Found: 229.9660.

reactant | N-(benzoylacetyl)-4,5-dichloro-2-nitroaniline | 1 mmol, 0.351 g | C(C1=CC=CC=C1)(=O)CC(=O)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C15H10Cl2N2O4
reactant | HCl | 2N | Cl | ClH
solvent | NaOH | 5 mL | [OH-].[Na+]
product | 6,7-Dichloro-1,2-dihydroquinoxaline-2-one-4-oxide | 0.207 g, 90% | ClC=1C=C2[N+](=CC(NC2=CC1Cl)=O)[O-] | C8H4Cl2N2O2
